# SP extraction bench
.include ./top.cir

Vgate gate 0 dc 1.8 ac 1 portnum 1 z0 50
Vdrain drain 0 dc 1.8 ac 1 portnum 2 Z0 50
Xdut gate drain 0 top

.save i(vdrain)
.save @m.xdut.Xnmos_80_0.x0.msky130_fd_pr__nfet_01v8[gm]

.control
sp lin 10 1G 10G
let gm = @m.xdut.Xnmos_80_0.x0.msky130_fd_pr__nfet_01v8[gm]
let d = -i(vdrain)
set filetype = ASCII
write {bench_path} s_1_1 s_2_1 s_1_2 s_2_2 d
.endc
